US08034812B2
Production of N-{2-fluoro-5-[(2-{[(2-methylcyclopropyl)carbonyl]amino}imidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide
Using 2-methylcyclopropanecarboxylic acid (72 mg, 0.72 mmol), tetrahydrofuran (2.0 mL), N,N-dimethylformamide (20 μL, 0.26 mmol), oxalyl chloride (63 μL, 0.72 mmol), N-{5-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]-2-fluorophenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide.hydrochloride (200 mg, 0.48 mmol) and N,N-dimethylacetamide (4.0 mL), and in the same manner as in Example 239, the title compound (55 mg, 25%) was obtained as a white powder.

reactant | 2-methylcyclopropanecarboxylic acid | 0.72 mmol, 72 mg | CC1C(C1)C(=O)O | C5H8O2
reactant | N,N-dimethylformamide | 0.26 mmol, 20 μL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 0.72 mmol, 63 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-{5-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]-2-fluorophenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide.hydrochloride | 0.48 mmol, 200 mg | Cl.NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2C)C)F)C1
solvent | N,N-dimethylacetamide | 4.0 mL | CN(C(C)=O)C | C4H9NO
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
product | N-{2-fluoro-5-[(2-{[(2-methylcyclopropyl)carbonyl]amino}imidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 55 mg, 25% | FC1=C(C=C(C=C1)OC=1C=CC=2N(N1)C=C(N2)NC(=O)C2C(C2)C)NC(=O)C2=CC(=NN2C)C | C23H22FN7O3
